US07842696B2
DIPEA (179.8 mg, 1.39 mmol) was added to the stirred solution of 2-acetyl-benzoic acid (50.75 mg, 0.31 mmol) in DMF (3 mL), HOBt (45.95 mg, 0.34 mmol) and EDCI.HCl (148.14 mg, 0.77 mmol) at room temperature. After 2 minutes biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide (120 mg, 0.37 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added, and the resulting precipitate was filtered. The residue was purified by column chromatography (using 60-120 mesh silica gel and 50% EtOAc in hexane as eluent) to afford 30 mg (20.6% yield) of biphenyl-4-carboxylicacid {2-[4-(2-acetyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide, LC-MS purity: 95.52%, 1H NMR: (DMSO) δ 8.64 (s, 1H), 8.0 (dd, 3H), 7.84-7.72 (q, 4H), 7.7-7.64 (t, 1H), 7.6 (t, 1H), 7.5 (t, 2H), 7.44-7.32 (m, 2H), 4.26-4.1 (dd, 2H), 3.76-3.62 (d, 4H), 3.46 (s, 2H), 3.3 (d, 2H), 2.6 (s, 3H).

reactant | DIPEA | 1.39 mmol, 179.8 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-acetyl-benzoic acid | 0.31 mmol, 50.75 mg | C(C)(=O)C1=C(C(=O)O)C=CC=C1 | C9H8O3
reactant | HOBt | 0.34 mmol, 45.95 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.77 mmol, 148.14 mg | CCN=C=NCCCN(C)C.Cl
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 0.37 mmol, 120 mg | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1 | C19H21N3O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylicacid {2-[4-(2-acetyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 30 mg, 20.6% yield | C(C)(=O)C1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=CC=C1 | C28H27N3O4
